US05212187
N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N"-[4-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]butyl]guanidine
Preparation is effected analogously to Example 1, using 0.54 g (1.6 mol) of N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,4-butanediamine and the equimolar amount of N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a dry foam. MS (+FAB method): m/z (rel. int. [%])=624 ([M+H]+, 1), 121 (100) IR (KBr): 2163 cm-1 (C≡N).

reactant | N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,4-butanediamine | 1.6 mol, 0.54 g | COC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCCN)C)C=C1 | C20H30N4O
reactant | N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea | C(#N)NC(OC1=CC=CC=C1)=NCCSCC=1N=C(SC1)NC(=N)N | C15H17N7OS2
product | N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N"-[4-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]butyl]guanidine | C(#N)NC(=NCCCCN(C)CCN(C1=NC=CC=C1)CC1=CC=C(C=C1)OC)NCCSCC=1N=C(SC1)NC(=N)N | C29H41N11OS2
